US06005116
(a) 2-Trifluoromethylcinnamic acid ethyl ester
2-Trifluoromethylcinnamic acid (10.1 g), conc. sulfuric acid (1 ml) and ethanol (100 ml) were subjected to reaction and post-treatment in a similar manner to that described in Reference example 10(a) to obtain the title compound (10.8 g, 95%) as a colorless oil.

reactant | 2-Trifluoromethylcinnamic acid | 10.1 g | FC(C1=C(C=CC(=O)O)C=CC=C1)(F)F | C10H7F3O2
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-Trifluoromethylcinnamic acid ethyl ester | 10.8 g, 95% | C(C)OC(C=CC1=C(C=CC=C1)C(F)(F)F)=O | C12H11F3O2
